US07666871B2
2-(4-Benzyloxy-phenyl)-4-[2-(tert-butyl-diphenyl-silanyloxy)-ethyl]-5-methyl-oxazole
To a mixture of 2-[2-(4-Benzyloxy-phenyl)-5-methyl-oxazol-4-yl]-ethanol [CAS 403611-91-6] (4.04 g, 13.0 mmol), triethylamine (3.6 mL, 25 mmol, and DMAP (0.16 g, 1.3 mmol) in CH2Cl2 (80 mL) at 0° C. is added a solution of tert-butylchlorodiphenylsilane (3.95 g, 14.4 mmol) in CH2Cl2 (10 mL) drop wise. The mixture is warmed to room temperature and stirred for 6 h. The mixture is washed with 0.5 N HCl (80 mL), and the organic phase is dried (MgSO4). After the solvent is removed in vacuo, the residue is purified by flash chromatography (elute 2:1 hexanes:EtOAc) to yield 7.09 g of the title compound as a white solid. MS (ES+) 548

reactant | 2-[2-(4-Benzyloxy-phenyl)-5-methyl-oxazol-4-yl]-ethanol | 13.0 mmol, 4.04 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1OC(=C(N1)CCO)C | C19H19NO3
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | tert-butylchlorodiphenylsilane | 14.4 mmol, 3.95 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
catalyst | DMAP | 1.3 mmol, 0.16 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-(4-Benzyloxy-phenyl)-4-[2-(tert-butyl-diphenyl-silanyloxy)-ethyl]-5-methyl-oxazole | 7.09 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)C=1OC(=C(N1)CCO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C | C35H37NO3Si
